Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Acetylcysteine / Keflex
 
Attending: ___.
 
Chief Complaint:
Depressed
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old G3P0, at 26 weeks, with a history of mood disorder,
PTSD, cocaine use disorder, who self presented with suicidal
ideations to ___ ED and transferred to L&D given gestational
age. Psychiatry is consulted for safety assessment. The patiet
was last hospitalized in from ___ ihn the setting of
urinary tract infection and suicidality at ___. During that
hospitalization she was assessed by psychiatry and social work,
started on prozac at 20mg and discharged to a domestic violence
shelter in ___ given circumstances surrounding
psychiatric decompensation were in the setting of substantial
physical abuse form her now ex-boyfriend. 

The patient has been living in a ___ shelter in ___ for
two months, stating she was doing well, felt safe, mood fairly
stable. However, she states she has never been alon, without a
romantic relationship and was drawn back into engaging with her
ex. She decided to move back to be with him on ___,
however abuse began the next day with patient being allegedly
dragged across the floor with her hair, pushed off her bed by
partner. She began struggling with thoughts of suicide two days
ago that have intensified to fleeting plan of wanting to 
overdose
on tylenol. She relapsed on cocaine two days ago as well,
snorting a "40", when she had intense thoughts of suicide. She
reports not wanting to act on these thoughts as she wants to 
have
her baby and looking forward to being a mother. She denies
thoughts of harming her baby.
 
Psych ROS:
Depression: endorses poor sleep, poor appetite for two days, low
energy, low concentration, anhedonia, worthlessness, guilt, + SI
Mania: + irritability, mood lability throughout a day,
nonsustained, denied sustained decreased need for sleep outside
of substance use, denied racing thoughts, endorses impulsivity
(regards to suicidality)
Anxiety; endorses panic attacks, chest tightness, shortness of
breath, palpitations
Trauma: multiple, current pregnancy result of rape, molested by
mother's boyfriends, endorses nightmnares, flashbacks,
hypervigilance, dissociation
Psychosis: +AH during stress male voice with derogatory 
comments,
heard once yesterday, not in hospital heard, no VH, no TB/TI or
IOR
 
Past Medical History:
PNC: 
- ___ 26w5d by US
- Labs ___ unk
- Screening not done
- FFS wnl (done at ___ at ___
- GTT not done
 
OBHx:
- SAB x 2
 
GynHx:
- abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: depression, anxiety, PTSD, hypothyroidism, asthma
 
PSH: lsc cholecystectomy, tonsillectomy
 
Social History:
SOCIAL HISTORY:
Mother lives in ___, has never met her father, has a ___ yr 
old
half-sister, was raised by her grandparents, grandfather passed
away at age ___, grandmother passed away ___ years ago, mother
was in and out of her life describes mom as "crazy." Recieved 
her
GED and attempted nursing school but was unable to complete.
Current on SSDI (reports ex-bf stole last $300 for the month)

SUBSTANCE ABUSE HISTORY:
Endorses cocaine use ( twice during pregnancy), prior to
oregnancy snorted cocaine 1/month
denies alcohol, benzos, tobacco, or other illicits (per LMR, has
a history of alcohol use disorder and benzo abuse since ___

FORENSIC HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mom- depression, "crazy" maternal cousins have had suicide
attempts
 
Physical Exam:
PHYSICAL EXAMINATION: 
VS: 98.2 // 83 // 122/72 // ___ // 99%RA
Ht: 62"
Wt: 251lb

GENERAL- no acute distress; appears stated age
SKIN- no appreciable rash or abnormality
HEENT- no conjunctival injection, no scleral icterus. Slight 
clear rhinorrhea. MMM. OP normal, no erythema or tonsillar 
exudate
NECK/BACK- neck ROM wnl; no bony tenderness; no cervical LAD or 
thyromegaly
LUNGS- CTA B; no r/r/w
CV- RRR; no M/R/G
ABD- S, NT. +BS. 
EXTREMITIES- no deformity; warm and well perfused

NEURO-
 CRANIAL NERVES- 
       I: grossly intact
       II: grossly intact; PERRL
       III, IV, VI: EOMI, no ptosis, PERRL, no nystagmus
       V, VII: sensation intact and symmetric at V1, V2, V3. 
Motor intact and symmetric at muscles of mastication and facial 
expression
       VIII: grossly intact
       IX, X: palate elevates with phonation
       XI: grossly intact; strength intact at bilateral SCM and 
traps
       XII: tongue midline, no fasciculations

MOTOR:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left     5        5        5         5          5            
Right    5        5        5         5          5          
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left     5      5        5                           
Right    5      5        5                                  

DEEP TENDON REFLEXES:
       Bicip:  Tric:  Brachial:  Patellar:  Achilles:   Toes:
Left                             2+         2+              
Right                            2+         2+             

SENSATION: intact to light touch bilaterally at upper and lower 
extremities

COORDINATION:
     Heel to shin: intact
     Gait/Romberg: normal gait, not antalgic, no ataxia

NEUROPSYCHIATRIC EXAMINATION:
-APPEARANCE: appropriately groomed, appears stated age, wearing 
street clothes
-BEHAVIOR: normal gesticulation; no involuntary movement or 
tremor; somewhat distant demeanor
-MOOD AND AFFECT: "irritated"/congruent with mood; both blunted 
and irritable. Utilizes humor and sarcasm intermittently. 
-THOUGHT PROCESS: Linear and goal directed; no e/o loosening of 
associations
-THOUGHT CONTENT: Denies hallucinations, does not appear to 
respond to internal stimuli; denies IOR/TI/TC; denies HI, +SI as 
per HPI
-INSIGHT / JUDGMENT: impaired/impaired

COGNITION:
-Attention, orientation, and executive function: attn good; 
oriented x3; follows 3 step commands
-Memory: grossly intact; references earlier points in the 
conversation appropriately 
-Fund of knowledge: fair
-Calculations: not formally assessed, but intact to converting 
weeks to months
-Abstraction: intact
-Visuospatial: not formally assessed
-Speech: Normal volume, rate, prosody, cadence, intonation
-Language: Native ___ speaker

 
Pertinent Results:
___ 09:30AM   GLUCOSE-124* UREA N-9 CREAT-0.5 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-106 TOTAL CO2-22 ANION GAP-13
___ 09:30AM   estGFR-Using this
___ 09:30AM   CALCIUM-9.0 PHOSPHATE-3.5 MAGNESIUM-1.7
___ 09:30AM   TSH-2.2
___ 09:30AM   WBC-7.6# RBC-3.52* HGB-10.5* HCT-28.8* MCV-82 
MCH-30.0 MCHC-36.6* RDW-14.0
___ 09:30AM   PLT COUNT-227
___ 06:00PM   GLUCOSE-129*
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. Pt was 
unit-restricted. There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
After discussion of pt's psychopharm history and side-effect 
history, and discussion of options (see below), citalopram was 
initiated at 10mg daily given pt's history of nausea with SSRIs. 
This was well tolerated, and was uptitrated to 20mg. She had 
clonazepam 0.25mg available BID PRN anxiety, which she utilized 
very sparingly during this admission. 

Initially, pt spent most of her time in bed, and required 
encouragement to participate in unit activities/groups. By ___, 
she began attending progressively more groups, though she often 
left part-way through, and worked hard to spend time out of bed. 
She slowly became more hopeful about her future, and was able to 
work constructively with the team on dispo planning. She was 
proactive in contacting shelters/sources of housing, and was 
persistent in her efforts. She was able to arrange 
post-hospitalization housing. 

GENERAL MEDICAL CONDITIONS:
Pregnancy: OB/GYN was contacted on admission, and followed her 
once a week. During her admission, she went briefly to OB triage 
3 times (was not transferred to the OB service) for fetal 
monitoring, ___ to r/o PPROM, ___ for ?decreased fetal mvt, 
and ___ for severe groin pain. All three times, fetal 
monitoring and PEx were reassuring.

PSYCHOSOCIAL:
#) GROUPS/MILIEU:
Initially, pt did not attend groups and was minimally present in 
the milieu. With encouragement from the team, she worked hard to 
increase her time out of bed and was able to attend at least ___ 
groups per day. During the later part of her admission, she was 
visible in the milieu and was able to provide support to others 
on the unit.  

#) COLLATERAL AND FAMILY CONTACTS:
The patient declined to provide the team with contact 
information for family or friends.

#) INTERVENTIONS:
. Medications: started citalopram, final dose 20mg/day
. Psychotherapeutic interventions: individual, group, and milieu 
therapy 
. Consulted the ___ Violence Prevention and Recovery
. Provided support/assistance in arranging for safe housing 

INFORMED CONSENT:
The team discussed the indications for, intended benefits of, 
and possible side effects/risks of starting citalopram, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any  questions about medications 
with the treatment team, and we answered the patient's 
questions. The patient appeared able to understand and consented 
to begin the medication.

RISK ASSESSMENT:
At time of discharge, pt is at low risk of harm to herself:
 
#) Chronic/Static Risk Factors:
-Trauma history
-History of suicide attempts
-History of self injurious behavior
-Chronic mental illness
-Substance use disorder

#) Modifiable Risk Factors:
-Domestic violence - consulted CVPR, assisted and supported pt 
in arranging safe housing including DV shelter followed by The 
Front Door Agency
-Unstable living situation - consulted CVPR, assisted and 
supported pt in arranging safe housing including DV shelter 
followed by The Front Door Agency
-Poorly controlled mental illness - initiated citalopram, 
provided psychotherapeutic and supportive interventions, 
encouraged participation in groups and milieu
-Lack of engagement in treatment - pt was actively engaged in 
treatment during this admission, and cited her developing child 
as a primary factor influencing her future-orientation and 
acceptance of help. Engagement in treatment was reinforced
-No stable outpatient treatment - pt was provided with 
information about providers near her interim and medium/longer 
term housing
-Cocaine use disorder - detoxification, psychoeducation, 
information re: outpatient services

#) Protective Factors:
-Desired pregnancy, duty to (developing) child
-Help-seeking behavior
-Future orientation
-Active engagement in inpatient treatment, including group and 
milieu participation
-Ability to utilize the inpatient environment appropriately and 
therapeutically
-More supportive aftercare plan
-Initiation of antidepressant

PROGNOSIS:
Guarded. Given the pt's history, her follow-through with 
outpatient followup is uncertain. However, given the new 
protective factor of her developing child/fetus, she may be more 
motivated to adhere with an outpatient treatment plan than 
before. Depending on available services (housing, support in the 
community, etc), her risk of returning to her abuser may change, 
and her suicidality seems closely related to her abusive 
relationship. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. DiphenhydrAMINE 25 mg PO Q6H:PRN allergy 
6. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. DiphenhydrAMINE 25 mg PO Q6H:PRN allergy 
2. Docusate Sodium 100 mg PO BID 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
6. Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
7. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depression NOS (Likely MDD; r/o bipolar disorder)
PTSD
Cocaine Use Disorder 

 
Discharge Condition:
Appearance: fairly groomed, wearing PJs, pregnant, appears 
stated age 
Behavior: cooperative, good eye contact, no PMA or PMR
Mood and Affect: 'ok'; affect euthymic, appropriate range, uses 
sarcasm and humor effectively. Affectively engaged
Thought process: linear, goal directed, no loose associations
Thought Content: hopelessness improving, some with passive SI. 
No e/o active hallucinations or delusions.  
Judgment and Insight: impaired; poor. both improving.
Speech: normal rate and volume, not pressured
Language: ___, fluent

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicidal 
thoughts.  We adjusted your medications, provided therapy and 
support, and you are now ready for discharge and continued 
treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses and interact with 
medication
-Please contact your outpatient psychiatrist, therapist, primary 
care physician, or other providers if you have any questions or 
concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety.
Here are some websites where you can find out more about these 
programs and find meetings in your area:
___

*It was a pleasure to have worked with you, and we wish you the 
best of health*

 
Followup Instructions:
___